US03960571
1-(2,6 -Dichloro-4-methoxycarbonylphenyl)-3-benzamido-5-pyrazolone prepared by the method as described in step (1) was reacted with 1-tetradecanol in the presence of butyl titanate as catalyst in a manner similar to Synthesis Example 1 to obtain the desired coupler, 1-(2,6 -dichloro-4-n-tetradecyloxycarbonylphenyl)-3-benzamido-5-pyrazolone as colorless crystals. The melting point of the product as 146°-147°C.

reactant | 1-(2,6 -Dichloro-4-methoxycarbonylphenyl)-3-benzamido-5-pyrazolone | ClC1=C(C(=CC(=C1)C(=O)OC)Cl)N1NC(=CC1=O)NC(C1=CC=CC=C1)=O | C18H13Cl2N3O4
reactant | 1-tetradecanol | C(CCCCCCCCCCCCC)O | C14H30O
catalyst | butyl titanate | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
product | 1-(2,6 -dichloro-4-n-tetradecyloxycarbonylphenyl)-3-benzamido-5-pyrazolone | ClC1=C(C(=CC(=C1)C(=O)OCCCCCCCCCCCCCC)Cl)N1NC(=CC1=O)NC(C1=CC=CC=C1)=O | C31H39Cl2N3O4
